US04599344
1-[3-Carboxy-1-hydroxypropyl]-3-[2-(4-chlorophenyl)ethylidene]-1-azoniabicyclo[2.2.2]octane hydroxide, inner salt
Stir 4.42 g (0.01 mole) of 3-[2-(4-chlorophenyl)ethylidene]-1-[3-((1,1-dimethylethoxy)carbonyl)-2-hydroxypropyl]-1-azoniabicyclo[2.2.2]octane chloride in 25 ml of trifluoroacetic acid. Follow the progress of the reaction by thin-layer chromatography on silica gel. When the reaction is complete (ca. 3-5 hr) remove the solvent in vacuo. Dissolve the residue in methanol/water. Stir the aqueous methanol solution with sufficient anion exchange resin (Biorad AG-1-X8, hydroxide form) to bring the pH of the solution to pH=9. Remove the resin by filtration and evaporate the solvent in vacuo at room temperature to provide the title compound.

reactant | 3-[2-(4-chlorophenyl)ethylidene]-1-[3-((1,1-dimethylethoxy)carbonyl)-2-hydroxypropyl]-1-azoniabicyclo[2.2.2]octane chloride | 0.01 mole, 4.42 g | [Cl-].ClC1=CC=C(C=C1)CC=C1C[N+]2(CCC1CC2)CC(CC(=O)OC(C)(C)C)O
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[3-Carboxy-1-hydroxypropyl]-3-[2-(4-chlorophenyl)ethylidene]-1-azoniabicyclo[2.2.2]octane hydroxide | [OH-].C(=O)(O)CCC(O)[N+]12CC(C(CC1)CC2)=CCC2=CC=C(C=C2)Cl | InChI=1S/C19H24ClNO3.H2O/c20-17-5-2-14(3-6-17)1-4-16-13-21(11-9-15(16)10-12-21)18(22)7-8-19(23)24;/h2-6,15,18,22H,1,7-13H2;1H2
